US05852019
(1) 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(3,5-dichlorophenyl)-1-piperazinyl]-1-propanone hydrochloride
1.75 g of 4-acetyl-1-(2-pyrimidinyl)-5-methylpyrazole was dissolved in 150 ml of ethanol and 2.21 g of 3,5-dichlorophenylpiperazine hydrochloride and 740 mg of paraformaldehyde were added thereto. The obtained mixture was heated under reflux for 24 hours. Further, 300 mg of paraformaldehyde was added and the obtained mixture was heated under reflux for 15 hours. Then the ethanol was almost halved by evaporation and the precipitate was filtered followed by the addition of chloroform thereto. Next, it was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue was purified by silica gel column chromatography (silica gel 90 g, chloroform:methanol=50:1). Then the obtained product was converted into hydrochloride by adding 1N hydrochloric acid and recrystallized from ethanol to thereby give 1.82 g of the title compound.

reactant | 4-acetyl-1-(2-pyrimidinyl)-5-methylpyrazole | 1.75 g | C(C)(=O)C=1C=NN(C1C)C1=NC=CC=N1 | C10H10N4O
reactant | 3,5-dichlorophenylpiperazine hydrochloride | 2.21 g | Cl.ClC=1C=C(C=C(C1)Cl)N1CCNCC1
reactant | paraformaldehyde | 740 mg | C=O | CH2O
reactant | paraformaldehyde | 300 mg | C=O | CH2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(3,5-dichlorophenyl)-1-piperazinyl]-1-propanone hydrochloride | 1.82 g | Cl.CC1=C(C=NN1C1=NC=CC=N1)C(CCN1CCN(CC1)C1=CC(=CC(=C1)Cl)Cl)=O | InChI=1S/C21H22Cl2N6O.ClH/c1-15-19(14-26-29(15)21-24-4-2-5-25-21)20(30)3-6-27-7-9-28(10-8-27)18-12-16(22)11-17(23)13-18;/h2,4-5,11-14H,3,6-10H2,1H3;1H
